US05416089
Part A: 6-(Trifluoromethyl)phenanthrene-1,10-dicarboxylic Anhydride
As described in example 14, the following compounds were prepared from dimethyl homophthalate and p-(trifluoromethyl)benzaldehyde:

reactant | dimethyl homophthalate | C(CC=1C(C(=O)OC)=CC=CC1)(=O)OC | C11H12O4
reactant | p-(trifluoromethyl)benzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
product | 6-(Trifluoromethyl)phenanthrene-1,10-dicarboxylic Anhydride | FC(C=1C=C2C=3C=CC=C4C3C(=CC2=CC1)C(=O)OC4=O)(F)F | C17H7F3O3
